US05340701
Preparation of 4-chloro-2-(p-methylphenylthio)-6-(2-ethylhexyloxy)pyrimidine
The preparation is carried out analogously to the method described in Example 3, with 4,6-dichloro-2-phenylpyrimidine being replaced by 4,6-dichloro-2-(p-methylphenylthio)pyrimidine and 3-methylbutanol by 2-ethylhexanol. The title compound is obtained as a resin in a yield of 85% of theory.

reactant | 4,6-dichloro-2-phenylpyrimidine | ClC1=NC(=NC(=C1)Cl)C1=CC=CC=C1 | C10H6Cl2N2
reactant | 4,6-dichloro-2-(p-methylphenylthio)pyrimidine | ClC1=NC(=NC(=C1)Cl)SC1=CC=C(C=C1)C | C11H8Cl2N2S
reactant | 2-ethylhexanol | C(C)C(CO)CCCC | C8H18O
solvent | 3-methylbutanol | CC(CCO)C | C5H12O
product | 4-chloro-2-(p-methylphenylthio)-6-(2-ethylhexyloxy)pyrimidine | yield of 85% | ClC1=NC(=NC(=C1)OCC(CCCC)CC)SC1=CC=C(C=C1)C | C19H25ClN2OS
